US04694014
Preparation of 2-[1,2,3,3,3-Pentafluoropropen-1-ylthio]-5-(4-chlorophenyl)-1,3,4-thiadiazole
60 ml of dimethylformamide and 6.85 g of 5-(4-chlorophenyl)-2-mercapto-1,3,4-thiadiazole and 0.7 g of potassium hydroxide are stirred in an autoclave. 20 g of hexafluoropropylene are pressed in, and the reaction mixture is heated for 19 hours at 60° C. (10-12·105Pa). After cooling and release of pressure, the solution is poured into ice-water, the product is taken up in chloroform, the chloroform solution is washed with 1n sodium hydroxide solution, and the solvent is removed in vacuo, affording as reside the title compound in the form of an crystals with a melting point of 69°-70° C.

reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | 5-(4-chlorophenyl)-2-mercapto-1,3,4-thiadiazole | 6.85 g | ClC1=CC=C(C=C1)C1=NN=C(S1)S | C8H5ClN2S2
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | hexafluoropropylene | 20 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[1,2,3,3,3-Pentafluoropropen-1-ylthio]-5-(4-chlorophenyl)-1,3,4-thiadiazole | FC(=C(C(F)(F)F)F)SC=1SC(=NN1)C1=CC=C(C=C1)Cl | C11H4ClF5N2S2
